US05910506
Synthesis of 2-Aminomethyl-5-(3,5-dichlorophenylthio)-4-isopropyl-1-(2,2,2-trifluoroethyl)-1H-imidazole (Compound I-76)
2-Chloromethyl-5-(3,5-dichlorophenylthio)-4-isopropyl-1-(2,2,2-trifluoroethyl)-1H-imidazole (28k)was synthesized from [5-(3,5-dichlorophenylthio)-4-isopropyl-1-(2,2,2-trifluoroethyl)-1H-imidazol-2-yl]methanol (Compound I-33)by the same synthetic process as that for (28a)in Example 66, and without purification of this compound, 2-azidomethyl-5-(3,5-dichlorophenylthio)-4-isopropyl-1-(2,2,2-trifluoroethyl)-1H-imidazole (29k)was obtained by the same synthetic process as that for (29a)in Example 66. Oil.

reactant | 2-Chloromethyl-5-(3,5-dichlorophenylthio)-4-isopropyl-1-(2,2,2-trifluoroethyl)-1H-imidazole | ClCC=1N(C(=C(N1)C(C)C)SC1=CC(=CC(=C1)Cl)Cl)CC(F)(F)F | C15H14Cl3F3N2S
reactant | [5-(3,5-dichlorophenylthio)-4-isopropyl-1-(2,2,2-trifluoroethyl)-1H-imidazol-2-yl]methanol | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1CC(F)(F)F)CO)C(C)C | C15H15Cl2F3N2OS
product | 2-Aminomethyl-5-(3,5-dichlorophenylthio)-4-isopropyl-1-(2,2,2-trifluoroethyl)-1H-imidazole | NCC=1N(C(=C(N1)C(C)C)SC1=CC(=CC(=C1)Cl)Cl)CC(F)(F)F | C15H16Cl2F3N3S
